US04018802
Step A-2. Preparation of 3-Trifluoromethylphenoxyacetaldehyde
A mixture of 3-trifluoromethylphenoxyacetaldehyde diethyl acetal (146.3 g.; 0.527 mole), acetone (600 ml.), water (550 ml.), and concentrated sulfuric acid (3.5 ml.) is heated under reflux for 22 hours.

reactant | 3-trifluoromethylphenoxyacetaldehyde diethyl acetal | 0.527 mole, 146.3 g | C(C)OC(COC1=CC(=CC=C1)C(F)(F)F)OCC | C13H17F3O3
reactant | acetone | 600 ml | CC(=O)C | C3H6O
reactant | sulfuric acid | 3.5 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 550 ml | O | H2O
product | 3-Trifluoromethylphenoxyacetaldehyde | FC(C=1C=C(OCC=O)C=CC1)(F)F | C9H7F3O2
